US08703795B2
e) {[4-Hydroxy-2-(4-methoxy-phenyl)-thieno[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
4-Hydroxy-2-(4-methoxy-phenyl)-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester, example 3-d, (23 mg, 0.064 mmol) and glycine (63 mg, 0.64 mmol) were suspended in 1.3 mL of 0.5 N NaOMe in methanol. The reaction mixture was heated at reflux temperature for 16 hours, cooled, and diluted with 1 N HCl to precipitate out a white solid. The precipitate was collected on a fine glass fritted filter, washed twice with water, and dried under hi-vacuum to isolate 20 mg of the title compound. MS: (+) m/z 359.04 (M+1).

reactant | 4-Hydroxy-2-(4-methoxy-phenyl)-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=CN1)SC(=C2)C2=CC=C(C=C2)OC)O | C19H19NO4S
reactant | glycine | 0.64 mmol, 63 mg | NCC(=O)O | C2H5NO2
solvent | NaOMe | 0.5 N, 1.3 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | HCl | 1 N | Cl | ClH
product | {[4-Hydroxy-2-(4-methoxy-phenyl)-thieno[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | 20 mg | OC1=C2C(=CN=C1C(=O)NCC(=O)O)SC(=C2)C2=CC=C(C=C2)OC | C17H14N2O5S
